*Q3000 3mm InGaAs four-quadrant Photodiode Impedance model---------------------------------
*derived from actual impedance measurements taken with HP4195a
.subckt Q3000 A B
R3 A 10  0.01
V1 10 11 0
B1 11 B V=I(V1) R_I FREQ= (1e6, 102, -2.1e3) (2e6, 57, -1.1e3) (5e6, 46, -433) (10e6, 44, -218)(20e6, 43, -115) (50e6, 35, -56) (100e6, 25, -33)
.ends Q3000
*Q3000 3mm InGaAs four-quadrant Photodiode Impedance model---------------------------------
*derived from actual impedance measurements taken with HP4195a 17 may 2011
.subckt Q3000_2 A B
R3 A 10  0.01
V1 10 11 0
B1 11 B V=I(V1) R_I FREQ= (5e6, 45.1, -429) (10e6, 42.2, -217) (15e6, 39.3, -146.8) (20e6, 38.7, -112.5) (25e6, 39.1, -92.1) (30e6, 36.8, -78.8) (35e6, 36.6, -68.9) (40e6, 34.4, -62.1) (45e6, 33.5, -55.7) (50e6, 32.3, -51.7) (60e6, 30.2, -44.8) (70e6, 28.2, -38.8) (80e6, 25.9, -34.3) (90e6, 24.5, -30.3) (100e6, 22.5, -26.8)
.ends Q3000_2
