
*custom inductor 68nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_680 A B
.param k=9.2e-5
R1 2 4 6
R2 A 2 0.2
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 68e-9
C1 4 B 0.137e-12
.ends 1008CS_68
*custom inductor 100nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_101 A B
.param k=1.25e-4
R1 2 4 13
R2 A 2 0.6
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 100e-9
C1 4 B 0.135e-12
.ends 1008CS_101

*custom inductor 120nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_121 A B
.param k=1.51e-4
R1 2 4 13
R2 A 2 0.6
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 120e-9
C1 4 B 0.136e-12
.ends 1008CS_121

*custom inductor 150nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_151 A B
.param k=1.1e-4
R1 2 4 14
R2 A 2 0.7
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 150e-9
C1 4 B 0.136e-12
.ends 1008CS_121

*custom inductor 180nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_181 A B
.param k=1.4e-4
R1 2 4 18
R2 A 2 0.8
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 180e-9
C1 4 B 0.130e-12
.ends 1008CS_181

*custom inductor 220nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_221 A B
.param k=1.9e-4
R1 2 4 18
R2 A 2 0.8
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 224e-9
C1 4 B 0.147e-12
.ends 1008CS_221

*custom inductor 330nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_331 A B
.param k=2.84e-4
R1 2 4 20
R2 A 2 1.1
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 330e-9
C1 4 B 0.132e-12
.ends 1008CS_331

*custom inductor 390nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_391 A B
.param k=3.49e-4
R1 2 4 27
R2 A 2 1.1
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 380e-9
C1 4 B 0.138e-12
.ends 1008CS_391

*custom inductor 470nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_471 A B
.param k=4.27e-4
R1 2 4 31
R2 A 2 1.2
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 465e-9
C1 4 B 0.156e-12
.ends 1008CS_471

*custom inductor 560nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_561 A B
.param k=5.18e-4
R1 2 4 36
R2 A 2 1.3
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 550e-9
C1 4 B 0.172e-12
.ends 1008CS_561

*custom inductor 620nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_621 A B
.param k=5.74e-4
R1 2 4 37
R2 A 2 1.4
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 615e-9
C1 4 B 0.143e-12
.ends 1008CS_621

*custom inductor 750nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_751 A B
.param k=6.9e-4
R1 2 4 44
R2 A 2 1.5
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 740e-9
C1 4 B 0.138e-12
.ends 1008CS_751

*custom inductor 1000nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_102 A B
.param k=8.2e-4
R1 2 4 90
R2 A 2 1.8
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 975e-9
C1 4 B 0.209e-12
.ends 1008CS_102

*custom inductor 1.2uH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_122 A B
.param k=1.05e-3
R1 2 4 73
R2 A 2 2
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 1215e-9
C1 4 B 0.201e-12
.ends 1008CS_122


*custom inductor 1.8uH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_182 A B
.param k=2.04e-3
R1 2 4 85
R2 A 2 2.6
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 1825e-9
C1 4 B 0.278e-12
.ends 1008CS_182

*custom inductor 2.2uH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_222 A B
.param k=2.46e-3
R1 2 4 84
R2 A 2 2.8
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 2200e-9
C1 4 B 0.285e-12
.ends 1008CS_222

*custom inductor 3.3uH-------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect, R1 was 134, R2 was 3.4, C1 was .285p, L1 was 3.3uH
*New values come from measurements on the HP4195a 22 Dec 2010
.subckt 1008CS_332 A B
.param k=3.27e-3
R1 2 4 .1
R2 A 2 3.46
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 3.49e-6
C1 4 B 0.342e-12
.ends 1008CS_332

*custom inductor 3900nH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008CS_392 A B
.param k=4.23e-3
R1 2 4 121
R2 A 2 3.6
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 3900e-9
C1 4 B 0.401e-12
.ends 1008CS_392

*custom inductor 10uH---------------------------------------------------------
*the values come from coilcraft document 158
*the k values model the skin effect
.subckt 1008LS_103XJL A B
.param k=3.89e-3
R1 2 4 300
R2 A 2 2.9
R3 2 10  0.01
V1 10 11 0
B1 11 3 V=I(V1) R_I FREQ= (1, {k}, 0) (1e9, {k*sqrt(1e9)}, 0)
L1 3 B 10000e-9
C1 4 B 0.385e-12
.ends 1008LS_103XJL
